US03975540
22 G. of 5-oxo-5H-dibenzo[a,d]cycloheptene-2-carboxylic acid is stirred in 200 ml. of chloroform, 50 ml. of thionyl chloride and 1 ml. of dimethylformamide for 8 hrs. The mixture is evaporated to dryness and the residue recrystallized from acetonitrile to yield 2-chloroformyl-5-oxo-5H-dibenzo[a,d]cycloheptene. This is dissolved in 200 ml. of chloroform and added to a 3-fold excess of ethereal diazomethane at 0°C. The mixture is left at 0°C for 12 hrs. then evaporated to dryness. The residue is recrystallized from acetonitrile to yield 2-diazoacetyl-5-oxo-5H-dibenzo-[a,d]cycloheptene. The diazoketone is heated to reflux in 250 ml. of ethanol and a saturated triethylamine solution of 2 g. of silver benzoate is added slowly until gas evolution ceases. The solution is cooled, filtered and evaporated to yield ethyl (5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)acetate. This ester is refluxed in 5% aqueous potassium hydroxide for 12 hrs. The solution is cooled, acidified with dilute hydrochloric acid and extracted with ether. The ether extract is dried and evaporated to yield (5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)acetic acid which can be recrystallized from acetone-hexane (m.p 148°-149.5°C).

reactant | 5-oxo-5H-dibenzo[a,d]cycloheptene-2-carboxylic acid | O=C1C2=C(C=CC3=C1C=CC(=C3)C(=O)O)C=CC=C2 | C16H10O3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-chloroformyl-5-oxo-5H-dibenzo[a,d]cycloheptene | ClC(=O)C1=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C=C1 | C16H9ClO2
